* File: NAND2.pex.netlist.pex
* Created: Mon Dec 10 22:00:03 2018
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%GND 1 25 29
c0 31 0 0.37908f
c1 19 0 0.414169f
c2 15 0 0.0898225f
c3 13 0 0.0273535f
c4 11 0 0.00464814f
c5 7 0 0.00991876f
c6 5 0 0.00248f
r7 29 31 0.049
r8 19 31 0.858
r9 18 19 0.429
r10 15 18 0.0439699
r11 13 15 0.175879
r12 10 13 0.0338147
r13 10 11 0.133333
r14 8 25 3.37155
r15 7 8 5.2
r16 5 11 0.0425897
r17 5 7 0.12
r18 1 15 1.2
.ends

.subckt PM_NAND2%VDD 1 26 34 36 43
c1 45 0 0.37908f
c2 30 0 0.414148f
c3 29 0 0.0608328f
c4 26 0 0.00991876f
c5 24 0 0.0375829f
c6 22 0 0.00991876f
c7 17 0 0.00464814f
c8 16 0 0.00248f
c9 9 0 0.0348704f
c10 8 0 0.00464814f
c11 7 0 0.00248f
r12 43 45 0.049
r13 30 45 0.858
r14 29 30 0.429
r15 27 36 3.83131
r16 26 27 5.4
r17 23 34 3.83131
r18 22 23 5.4
r19 17 29 0.0313149
r20 16 26 0.0451795
r21 16 17 0.133333
r22 10 24 0.0149881
r23 10 12 0.133333
r24 9 29 0.0149881
r25 9 12 0.0266667
r26 8 24 0.0313149
r27 7 22 0.0451795
r28 7 8 0.133333
r29 1 12 1.15556
.ends

.subckt PM_NAND2%B 3 7 26
c0 26 0 0.07776f
c1 14 0 0.0215f
c2 11 0 0.08496f
c3 7 0 0.0275183f
c4 3 0 0.0189183f
r5 17 26 0.028
r6 14 20 6.71385
r7 14 19 6.71385
r8 11 17 8.58
r9 10 14 9.6
r10 10 11 4.29
r11 7 20 40.425
r12 3 19 21.175
.ends

.subckt PM_NAND2%A 3 7 26
c1 26 0 0.07776f
c2 14 0 0.0215f
c3 11 0 0.08496f
c4 7 0 0.0275183f
c5 3 0 0.0189183f
r6 17 26 0.034986
r7 14 20 6.71385
r8 14 19 6.71385
r9 11 17 8.58
r10 10 14 9.6
r11 10 11 4.29
r12 7 20 40.425
r13 3 19 21.175
.ends

.subckt PM_NAND2%OUTPUT 1 24 25 27 33
c2 33 0 0.06804f
c3 20 0 0.07434f
c4 19 0 0.00775f
c5 12 0 0.0124f
c6 8 0 0.01395f
c7 6 0 0.0204581f
c8 3 0 0.00883314f
c9 2 0 0.04779f
c10 1 0 0.0885379f
r11 20 33 8.58
r12 19 20 4.29
r13 16 27 3.37155
r14 15 16 5.2
r15 12 15 0.06
r16 11 24 3.78128
r17 11 25 3.78128
r18 8 11 5.4
r19 8 9 4.29
r20 6 19 0.0527007
r21 5 6 0.586667
r22 4 12 0.0158951
r23 3 5 0.0446983
r24 3 4 0.173333
r25 2 9 0.0461131
r26 1 20 0.0461131
r27 1 2 0.326667
.ends

.subckt PM_NAND2%6 1 2
r0 1 2 7.7
.ends

