* File: XOR2.pex.netlist.pex
* Created: Mon Dec 10 19:21:33 2018
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%GND 1 32 34 38
c0 40 0 0.37908f
c1 24 0 0.00496f
c2 22 0 0.0333985f
c3 19 0 0.00496f
c4 16 0 0.00464814f
c5 14 0 0.414159f
c6 7 0 0.0837735f
c7 6 0 0.00464814f
r8 38 40 0.049
r9 25 34 3.3
r10 24 25 10.4
r11 20 32 3.3
r12 19 20 10.4
r13 16 24 0.0451795
r14 15 16 0.133333
r15 14 40 0.858
r16 13 14 0.429
r17 10 13 0.0430769
r18 8 22 0.0171172
r19 8 10 0.153846
r20 7 15 0.150877
r21 7 13 0.110769
r22 6 19 0.0451795
r23 5 22 0.0277256
r24 5 6 0.133333
r25 1 10 1.2
.ends

.subckt PM_XOR2%VDD 1 2 4 29 40
c1 42 0 0.37908f
c2 31 0 0.006975f
c3 29 0 0.00991876f
c4 26 0 0.00991876f
c5 24 0 0.414159f
c6 23 0 0.0724579f
c7 16 0 0.00464814f
c8 15 0 0.00248f
c9 12 0 0.0236375f
c10 11 0 0.0302203f
c11 10 0 0.00464814f
c12 9 0 0.00248f
r13 40 42 0.049
r14 29 30 5.4
r15 26 27 5.4
r16 24 42 0.858
r17 23 24 0.429
r18 20 23 0.0373333
r19 18 31 0.0149881
r20 18 20 0.0266667
r21 16 31 0.0313149
r22 15 29 0.0451795
r23 15 16 0.133333
r24 11 31 0.0149881
r25 11 12 0.138667
r26 10 12 0.0976791
r27 9 26 0.0451795
r28 9 10 0.133333
r29 5 30 2.49161
r30 4 30 1.92062
r31 4 5 6.94135
r32 3 27 2.49161
r33 2 27 1.92062
r34 2 3 6.94135
r35 1 20 1.15556
.ends

.subckt PM_XOR2%I[1] 5 11 28
c0 28 0 0.07776f
c1 22 0 0.0137566f
c2 17 0 0.0215f
c3 14 0 0.08496f
c4 9 0 0.0171983f
c5 8 0 0.00344f
c6 7 0 0.0103166f
c7 5 0 0.0292383f
r8 17 23 6.71385
r9 17 22 6.71385
r10 14 28 8.58
r11 13 17 9.6
r12 13 14 4.29
r13 9 11 17.325
r14 7 9 4.30221
r15 7 8 15.4
r16 5 23 32.725
r17 1 8 4.30221
r18 1 22 30.8
.ends

.subckt PM_XOR2%I[2] 5 9 31
c1 31 0 0.07776f
c2 25 0 0.00515656f
c3 20 0 0.0215f
c4 17 0 0.08496f
c5 13 0 0.01032f
c6 9 0 0.0257983f
c7 5 0 0.0292383f
r8 20 26 6.71385
r9 20 25 6.71385
r10 17 31 8.58
r11 16 20 9.6
r12 16 17 4.29
r13 11 13 15.4
r14 7 13 0.452212
r15 7 9 36.575
r16 5 26 32.725
r17 1 11 0.452212
r18 1 25 11.55
.ends

.subckt PM_XOR2%I[3] 3 7 23
c2 23 0 0.0486f
c3 11 0 0.0531f
c4 7 0 0.0300983f
c5 5 0 0.03569f
c6 3 0 0.0309583f
r7 11 23 8.58
r8 10 14 9.6
r9 10 11 4.29
r10 5 14 6.9732
r11 5 7 34.65
r12 1 14 8.78241
r13 1 3 48.125
.ends

.subckt PM_XOR2%I[4] 3 8 25
c2 25 0 0.06804f
c3 12 0 0.07434f
c4 8 0 0.0429983f
c5 6 0 0.03139f
c6 5 0 0.00344f
c7 4 0 0.00687656f
c8 1 0 0.0171983f
r9 15 19 5.16878
r10 12 25 8.58
r11 11 15 9.6
r12 11 12 4.29
r13 6 15 6.73956
r14 6 8 63.525
r15 4 19 4.04324
r16 4 5 15.4
r17 1 5 4.30221
r18 1 3 17.325
.ends

.subckt PM_XOR2%OUT 3 7 14 27 28 30 31 37
c3 37 0 0.08262f
c4 23 0 0.09027f
c5 22 0 0.00775f
c6 20 0 0.00279f
c7 17 0 0.00496f
c8 14 0 0.00883314f
c9 13 0 0.00464814f
c10 11 0 0.00325314f
c11 7 0 0.0111588f
c12 5 0 0.00248f
c13 4 0 0.00279f
c14 3 0 0.00929814f
c15 2 0 0.00557814f
r16 23 37 8.58
r17 22 23 4.29
r18 18 30 3.3
r19 18 31 3.3
r20 17 18 10.4
r21 15 20 0.00880368
r22 14 22 0.0527007
r23 14 15 0.306667
r24 12 20 0.0338756
r25 12 13 0.133333
r26 11 20 0.0338756
r27 10 11 0.0933333
r28 8 27 1.875
r29 8 28 1.875
r30 7 8 5.4
r31 5 13 0.0425897
r32 5 7 0.14
r33 3 10 0.0446983
r34 3 4 0.24
r35 2 4 0.0446983
r36 1 17 0.0451795
r37 1 2 0.16
.ends

.subckt PM_XOR2%8 1 3 23 24 26 29
c5 19 0 0.04779f
c6 18 0 0.01519f
c7 12 0 0.01519f
c8 6 0 0.01519f
c9 4 0 0.03186f
c10 3 0 0.0331879f
c11 2 0 0.04779f
c12 1 0 0.0553279f
r13 22 29 1.875
r14 21 22 5.4
r15 18 21 0.0628648
r16 18 19 4.29
r17 16 26 1.875
r18 15 16 5.4
r19 12 15 0.0628648
r20 12 13 4.29
r21 10 23 1.875
r22 10 24 1.875
r23 9 10 5.4
r24 6 9 0.0628648
r25 6 7 4.29
r26 4 13 0.0461131
r27 3 19 0.0461131
r28 3 4 0.256667
r29 2 7 0.0461131
r30 1 13 0.0461131
r31 1 2 0.256667
.ends

.subckt PM_XOR2%9 1 2
r0 1 2 4.4
.ends

.subckt PM_XOR2%10 1 2
r0 1 2 4.4
.ends

